US09196837B2
N-(9,9-dimethyl-9H-fluorene-2-yl)-2-bromo-aniline (18.5 g), potassium acetate (6.98 g), and DMF (95 ml) were added to a nitrogen-substituted reaction vessel and aerated with nitrogen gas for 1 hour. The mixture was heated after adding tetrakis(triphenylphosphine)palladium (1.18 g) and stirred at 100° C. for 11 hours. After the mixture was cooled to a room temperature, the reaction liquid was added to water (300 ml) and extraction was performed with toluene (300 ml). An organic layer obtained was washed with water (200 ml) twice, dehydrated with anhydrous magnesium sulfate, and concentrated under reduced pressure to obtain a crude product. The crude product was purified by column chromatography (carrier: silica gel; eluent: toluene/n-hexane) to obtain a pale yellow powder of 12,12-dimethyl-10,12-dihydroindeno[2,1-b]carbazole (7.9 g; yield 55.2%).

reactant | N-(9,9-dimethyl-9H-fluorene-2-yl)-2-bromo-aniline | 18.5 g | CC1(C2=CC=CC=C2C=2C=CC(=CC12)NC1=C(C=CC=C1)Br)C | C21H18BrN
reactant | potassium acetate | 6.98 g | C(C)(=O)[O-].[K+]
reactant | DMF | 95 ml | CN(C)C=O | C3H7NO
reactant | water | 300 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 1.18 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 12,12-dimethyl-10,12-dihydroindeno[2,1-b]carbazole | 7.9 g, yield 55.2% | CC1(C2=C(C=C3N=C4C=CC=CC4=C13)C=C1C=CCC=C12)C | C21H17N
